US05491172
(b) 2,4,6-Triisopropylbenzyl bromide
A solution of PBr3 (2.7 g, 10 mmol) in ether (10 mL) was added slowly to a solution of 2,4,6-triisopropylbenzyl alcohol (4.68 g, 20 mmol) in 20 mL of ether at room temperature. The mixture was stirred for 1 hour, 5 mL of absolute EtOH was added, and stirring was continued for another 0.5 hour. The solvent was removed and the residue distributed between EtOAc and saturated Na2CO3. The EtOAc layer was separated, washed with brine, and dried over MgSO4. The solvent was evaporated and the pure product was isolated by column chromatography (100% CH2Cl2, 3.5 g, 59%); NMR (CDCl3): δ 1.2-1.4 (m, 18H), 2.8-3.0(m, 1H), 3.2-3.45 (m, 2H), 4.7 (s, 2H), 7.04 (s, 2H) ppm.

reactant | PBr3 | 10 mmol, 2.7 g | P(Br)(Br)Br | Br3P
reactant | 2,4,6-triisopropylbenzyl alcohol | 20 mmol, 4.68 g | C(C)(C)C1=C(CO)C(=CC(=C1)C(C)C)C(C)C | C16H26O
reactant | EtOH | 5 mL | CCO | C2H6O
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
product | 2,4,6-Triisopropylbenzyl bromide | C(C)(C)C1=C(CBr)C(=CC(=C1)C(C)C)C(C)C | C16H25Br
